US08003662B2
Step G: Preparation of 6-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one:
A mixture of 6-(3-fluoro-4-hydroxyphenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one (0.078 g, 0.186 mmol), 7-chloro-2-iodothieno[3,2-b]pyridine (0.050 g, 0.169 mmol; prepared according to the procedure of Ragan, J. A. Org. Proc. Res. 2003, 7, 676) and DMAP (0.021 g, 0.169 mmol) in bromobenzene (1.5 mL) under nitrogen was stirred at 150° C. for two days. The reaction was concentrated in vacuo to remove as much bromobenzene as possible and then purified directly by flash column chromatography, eluting with 30:1 CH2Cl2/MeOH. The product was obtained (35 mg; 36%) as a yellow solid. LRMS (APCI pos) m/e 583 (M+1).

reactant | 6-(3-fluoro-4-hydroxyphenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one | 0.186 mmol, 0.078 g | FC=1C=C(C=CC1O)C1=CN=C2N(C1=O)CCN2C2=CC=CC=C2 | C18H14FN3O2
reactant | 7-chloro-2-iodothieno[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(S2)I | C7H3ClINS
catalyst | DMAP | 0.169 mmol, 0.021 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | bromobenzene | 1.5 mL | BrC1=CC=CC=C1 | C6H5Br
product | 6-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)I)C2=CN=C1N(C2=O)CCN1C1=CC=CC=C1 | C25H16FIN4O2S
